US07696352B2
To a suspension of methyl 2-(4-iodophenyl)-1-methyl-1H-imidazole-4-carboxylate prepared above (72 mg, 0.21 mmol) in toluene (4 mL), LiAlH4 (61 mg, 1.6 mmol) was added. The mixture was heated at 110° C. overnight. After being cooled to room temperature, EtOAc (15 mL) and 1N aq. NaOH (15 mL) were added. The mixture was filtered through celite. The organic layer was separated, dried over Na2SO4, concentrated in vacuo to give (2-(4-iodophenyl)-1-methyl-1H-imidazol-4-yl)methanol (46 mg). MS 315.0 (M+H).

reactant | methyl 2-(4-iodophenyl)-1-methyl-1H-imidazole-4-carboxylate | IC1=CC=C(C=C1)C=1N(C=C(N1)C(=O)OC)C | C12H11IN2O2
reactant | LiAlH4 | 1.6 mmol, 61 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
reactant | NaOH | 1N, 15 mL | [OH-].[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | (2-(4-iodophenyl)-1-methyl-1H-imidazol-4-yl)methanol | 46 mg | IC1=CC=C(C=C1)C=1N(C=C(N1)CO)C | C11H11IN2O
